US07544697B2
A solution of ethyl 1-(2-hydroxyethyl)-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carboxylate (24.6 g, 95.9 mmol) in THF (191 mL) was cooled to 0° C. Sodium hydride (4.6 g of a 60% dispersion in mineral oil, 110 mmol) was added, and iodomethane (6.6 mL, 105 mmol) was added dropwise over a period of ten minutes. The reaction was allowed to warm to ambient temperature and stirred for six hours. The work-up procedure described in Part B of Example 1255 was followed to provide ethyl 5-(2-hydroxy-2-methylpropyl)-1-(2-methoxyethyl)-1H-pyrazole-3-carboxylate as a light brown oil.

reactant | ethyl 1-(2-hydroxyethyl)-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carboxylate | 95.9 mmol, 24.6 g | OCCN1N=C(C=C1CC(C)(C)O)C(=O)OCC | C12H20N2O4
reactant | Sodium hydride | [H-].[Na+]
reactant | iodomethane | 105 mmol, 6.6 mL | IC | CH3I
solvent | THF | 191 mL | C1CCOC1 | C4H8O
product | ethyl 5-(2-hydroxy-2-methylpropyl)-1-(2-methoxyethyl)-1H-pyrazole-3-carboxylate | OC(CC1=CC(=NN1CCOC)C(=O)OCC)(C)C | C13H22N2O4
